US07943651B2
Intermediate 13: Phenylmethyl 3-{2-[(2,6-dibromo-4-methylphenyl)methylidene]hydrazino}benzoate
Potassium carbonate (7.41 g, 53.61 mmol) was added to a solution of 3-{2-[(2,6-dibromo-4-methylphenyl)methylidene]hydrazino}benzoic acid (19.4 g, 44.65 mmol) in dry DMF (200 mL). Benzyl bromide (5.42 mL, 45.6 mmol) was then added and the mixture stirred at room temperature for 15 hours and then partitioned between ethyl acetate (500 mL) and water (500 mL). The organic phase was separated, combined with a second ethyl acetate extract (300 mL), washed successively with water (4×500 mL) and brine (300 mL), dried over anhydrous sodium sulphate, evaporated and further dried under vacuum to give the title compound (23.2 g).

reactant | Potassium carbonate | 53.61 mmol, 7.41 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-{2-[(2,6-dibromo-4-methylphenyl)methylidene]hydrazino}benzoic acid | 44.65 mmol, 19.4 g | BrC1=C(C(=CC(=C1)C)Br)C=NNC=1C=C(C(=O)O)C=CC1 | C15H12Br2N2O2
reactant | Benzyl bromide | 45.6 mmol, 5.42 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | Phenylmethyl 3-{2-[(2,6-dibromo-4-methylphenyl)methylidene]hydrazino}benzoate | 23.2 g | BrC1=C(C(=CC(=C1)C)Br)C=NNC=1C=C(C(=O)OCC2=CC=CC=C2)C=CC1 | C22H18Br2N2O2
